US04422870
A suspension of 1.50 g (6.14 mmol) of 2-(2',5'-dimethylphenyl)-5,5-dimethyl-1,3-cyclohexanedione in 15 ml of dry benzene was prepared and 0.49 g (7.37 mmol) of 85% powdered potassium hydroxide was added, followed by 1 drop of dicyclohexyl-18-crown-6-ether. After stirring for 30 minutes, 1.20 g (7.37 mmol) of 2-ethylhexanoyl chloride was added, and the reaction mixture refluxed for 12 hrs. The reaction mixture was cooled to room temperature, taken up in 150 ml ether and 50 ml of water, washed three times with 0.25 N, NaOH, two times with water, two times with 6 N HCl, and once more with water. The ether solution was dried and stripped to leave 2.10 g (92% yield) of 3-(2-ethylhexanoyloxy)-5,5-dimethyl-2-(2',5'-dimethylphenyl)-2-cyclohexenone as a clear, colorless oil.

reactant | 2-(2',5'-dimethylphenyl)-5,5-dimethyl-1,3-cyclohexanedione | 6.14 mmol, 1.50 g | CC1=C(C=C(C=C1)C)C1C(CC(CC1=O)(C)C)=O | C16H20O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | 2-ethylhexanoyl chloride | 7.37 mmol, 1.20 g | C(C)C(C(=O)Cl)CCCC | C8H15ClO
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
catalyst | dicyclohexyl-18-crown-6-ether | 1 drop | C1CCC2C(C1)OCCOCCOC3CCCCC3OCCOCCO2 | C20H36O6
solvent | ether | 150 ml | CCOCC | C4H10O
product | 3-(2-ethylhexanoyloxy)-5,5-dimethyl-2-(2',5'-dimethylphenyl)-2-cyclohexenone | 2.10 g, 92% yield | C(C)C(C(=O)OC1=C(C(CC(C1)(C)C)=O)C1=C(C=CC(=C1)C)C)CCCC | C24H34O3
